US09340513B2
1-tert-Butyl 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((S)-1-(3-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate
To a solution of 4-tert-butoxy-3,3-dimethyl-4-oxobutanoic acid (1.174 g, 5.80 mmol), DMAP (0.709 g, 5.80 mmol) in DCM (20 mL) stirred at rt was added EDCl (1.854 g, 9.67 mmol). The reaction mixture was stirred at rt for 2 h. (E)-N—((S)-1-(3-Chlorophenyl)ethyl)-3-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)acrylamide (1.2 g, 1.934 mmol) was added to the reaction mixture. The resultant mixture was stirred at rt overnight. Water was added and the mixture was partitioned and washed with additional water. The organics were dried over sodium sulfate filtered through a short silica gel column and evaporated in vacuo to give the crude product as yellow foam. This material was used in the next step without further purification.

reactant | 4-tert-butoxy-3,3-dimethyl-4-oxobutanoic acid | 5.80 mmol, 1.174 g | C(C)(C)(C)OC(C(CC(=O)O)(C)C)=O | C10H18O4
reactant | EDCl | 9.67 mmol, 1.854 g | CCN=C=NCCCN(C)C.Cl
reactant | (E)-N—((S)-1-(3-Chlorophenyl)ethyl)-3-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)acrylamide | 1.934 mmol, 1.2 g | ClC=1C=C(C=CC1)[C@H](C)NC(\C=C\[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)O)C)=C(CC2)C(C)C)=O | C40H58ClNO2
reactant | Water | O | H2O
catalyst | DMAP | 5.80 mmol, 0.709 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-tert-Butyl 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((S)-1-(3-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(CC5)C(C)C)\C=C\C(=O)N[C@@H](C)C5=CC(=CC=C5)Cl)C)C)(C)C)C | C50H74ClNO5
